US05354747
1,1-dimethylethyl 4-(2-furanylcarbonyl)-1-piperazinecarboxylate
t-Butyloxycarbonyl piperazine (2.0 g, 10.7 mmol) was reacted with furancarbonyl chloride (1.40 g, 10.7 mmol) by the method of Example 4. Following chromatography, a 2.25 g sample of the title compound was obtained.

reactant | t-Butyloxycarbonyl piperazine | 10.7 mmol, 2.0 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | furancarbonyl chloride | 10.7 mmol, 1.40 g | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
product | 1,1-dimethylethyl 4-(2-furanylcarbonyl)-1-piperazinecarboxylate | O1C(=CC=C1)C(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C14H20N2O4
